US07217697B2
4-(2-Benzyloxybenzyl)-1-(2-benzyloxyethyl)-3-(β-D-glucopyranosyloxy)-5-trifluoromethyl-1H-pyrazole
To a solution of 4-(2-benzyloxybenzyl)-3-(β-D-glucopyranosyloxy)-5-trifluoromethyl-1H-pyrazole (300 mg) in N,N-dimethylformamide (3 mL) were added (2-bromoethoxymethyl)benzene (379 mg) and cesium carbonate (957 mg), and the mixture was stirred at 80° C. for 1.5 hours. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=20/1-10/1) to give the title compound (154 mg).

reactant | 4-(2-benzyloxybenzyl)-3-(β-D-glucopyranosyloxy)-5-trifluoromethyl-1H-pyrazole | 300 mg | C(C1=CC=CC=C1)OC1=C(CC=2C(=NNC2C(F)(F)F)O[C@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO)C=CC=C1 | C24H25F3N2O7
reactant | (2-bromoethoxymethyl)benzene | 379 mg | BrCCOCC1=CC=CC=C1 | C9H11BrO
reactant | cesium carbonate | 957 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 4-(2-Benzyloxybenzyl)-1-(2-benzyloxyethyl)-3-(β-D-glucopyranosyloxy)-5-trifluoromethyl-1H-pyrazole | 154 mg | C(C1=CC=CC=C1)OC1=C(CC=2C(=NN(C2C(F)(F)F)CCOCC2=CC=CC=C2)O[C@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO)C=CC=C1 | C33H35F3N2O8
